US05719251
Preparation of 1,4-bis[(2-propenyloxy)methyl]cyclohexane
Into a two liter round-bottom three-neck flask equipped with a mechanical stirrer, reflux condensor, thermocouple, and nitrogen inlet, were placed 1,4-cyclohexanedimethanol (375 g, 2.60 moles), allyl bromide (1100 g, 9.09 moles), toluene (830 mL), sodium hydroxide (300 g, 7.5 mole), and tetra-n-butylammonium bromide (110 g, 0.34 mole). The reaction mixture was stirred at 30°-50° C. for 8 hours and at 70°-80° C. for 10 hours. Gas chromatography analysis showed >99% of the desired product. After cooling, the reaction mixture was poured into 2 liters of water, the layers were separated and the aqueous layer was extracted with 150 mL toluene. The toluene solutions were combined and washed with water until pH ~7. The organic phase was dried over anhydrous sodium sulfate, the solvent was stripped on a rotary evaporator and the product was distilled on a Kugelrohr apparatus at 90°-100° C. under a vacuum 0.03 Torr. A gas chromatorgraphy, mass spectroscopy (K+IDS) and 1H NMR analysis indicated the desired structure with >97% purity. Yield: 385 g (66%), colorless liquid.

reactant | 1,4-cyclohexanedimethanol | 2.60 moles, 375 g | C1(CCC(CC1)CO)CO | C8H16O2
reactant | allyl bromide | 9.09 moles, 1100 g | C(C=C)Br | C3H5Br
reactant | sodium hydroxide | 7.5 mole, 300 g | [OH-].[Na+]
reactant | toluene | 830 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 0.34 mole, 110 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,4-bis[(2-propenyloxy)methyl]cyclohexane | >99% | C(C=C)OCC1CCC(CC1)COCC=C | C14H24O2
